US08357688B2
A mixed solution of 87 mg of 7-[(5-chloro-2,3-dihydro-1H-indol -1-yl)carbonyl]-1-(trans-4-hydroxycyclohexyl)-8-methylimidazo[1,5-a]quinoxalin-4(5H)-one and 2.8 mL of dichloromethane was cooled to −70° C., and 48 μL of N,N-diethylaminosulfur trifluoride was added thereto, followed by stirring at the same temperature for 2 hours. To the mixed reaction liquid were added a saturated aqueous sodium hydrogen carbonate solution and chloroform, followed by extraction with chloroform, and the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. Then, the solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform/methanol=100/0 to 97/3). To the obtained solid was added 1.5 mL of methanol to give a mixture, and then warmed. A precipitate was collected by filtration and dried under reduced pressure to obtain 7 mg of 7-[(5-chloro-2,3-dihydro-1H-indol-1-yl)carbonyl]-1-(cyclohex-3-en-1-yl)-8-methylimidazo[1,5-a]quinoxalin-4(5H)-one as a white solid.

reactant | 7-[(5-chloro-2,3-dihydro-1H-indol -1-yl)carbonyl]-1-(trans-4-hydroxycyclohexyl)-8-methylimidazo[1,5-a]quinoxalin-4(5H)-one | 87 mg | ClC=1C=C2CCN(C2=CC1)C(=O)C=1C=C2NC(C=3N(C2=CC1C)C(=NC3)[C@@H]3CC[C@H](CC3)O)=O | C26H25ClN4O3
reactant | dichloromethane | 2.8 mL | ClCCl | CH2Cl2
reactant | N,N-diethylaminosulfur trifluoride | 48 μL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-[(5-chloro-2,3-dihydro-1H-indol-1-yl)carbonyl]-1-(cyclohex-3-en-1-yl)-8-methylimidazo[1,5-a]quinoxalin-4(5H)-one | 7 mg | ClC=1C=C2CCN(C2=CC1)C(=O)C=1C=C2NC(C=3N(C2=CC1C)C(=NC3)C3CC=CCC3)=O | C26H23ClN4O2
